data/oMe_Silver.jsonl
{"reaction_id": "NR-137_1-CCCC(C)C_2-CC_3-CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2_4-CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2","name": "Maitland-Japp Reaction","level": "medium","reactants_smiles": ["C(CCCC(C)C)C(=O)C(CC)","O=CC(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)"],"products_smiles": ["C1(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)OC(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)C(CC)C(=O)C1(CCCC(C)C)"],"conditions": "Acid","mechanism": [{"step": 1,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C(CC)C(=O)C(=C(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2))(CCCC(C)C)","rationale": "Acid catalysis increases carbonyl electrophilicity, enabling enol or enolate attack on the aldehyde to form the conjugated α,β-unsaturated system stabilized by resonance."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)=C(CCCC(C)C)C(=O)C(CC)C(O)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)","rationale": "The activated alkene undergoes nucleophilic addition from a hydroxyl group, favored by conjugation breaking and formation of a stabilized carbocation intermediate under acidic conditions."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)=C(CCCC(C)C)C(=[OH+])C(CC)C(O)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)","rationale": "Protonation of the carbonyl oxygen increases electrophilicity, preparing the intermediate for subsequent intramolecular nucleophilic attack."},{"step": 4,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C1(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)C(CCCC(C)C)=C(O)C(CC)C(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)[OH+]1","rationale": "Intramolecular nucleophilic addition is favored entropically and electronically, as the nearby hydroxyl oxygen attacks the protonated carbonyl to form a cyclic oxonium ion."},{"step": 5,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C1(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)C(CCCC(C)C)=C(O)C(CC)C(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)O1","rationale": "Deprotonation of the oxonium ion restores neutrality, stabilizing the newly formed heterocyclic ring."},{"step": 6,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C1(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)OC(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)C(CC)C(=O)C1(CCCC(C)C)","rationale": "Proton transfer rearranges the oxygen protonation state, yielding the thermodynamically stable cyclic ether with a carbonyl group."}],"description": "Under acidic conditions, the carbonyl compound and aldehyde undergo condensation to form an α,β-unsaturated intermediate, which then participates in intramolecular nucleophilic addition and cyclization. Proton transfers facilitate ring closure and rearrangement to yield the stable cyclic product."}
